US08431733B2
To a solution of (2S,4R)-1-(tert-butoxycarbonyl)-4-(7-methoxy-2-(1H-pyrazol-1-yl)quinolin-4-yloxy)pyrrolidine-2-carboxylic acid (5.0 g, 11.0 mmol) dissolved in a mixture of methylene chloride (135 mL) and N,N-dimethylformamide (45 mL) was added 2-(1H-7-Azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HATU, (4.97 g, 42.6 mmol) and diisopropylethylamine (7.2 mL, 41.11 mmol), followed by the hydrochloride salt of (2S,3S)-3-amino-N-cyclopropyl-2-hydroxyhexanamide (2.45 g, 11.0 mmol). The reaction mixture was stirred at room temperature for 2 hours under nitrogen atmosphere. Completion of reaction was monitored by TLC. The reaction mixture was diluted with methylene chloride (200 mL) and washed with 10% hydrochloric acid (100 mL), followed by with 10% sodium bicarbonate solution (100 mL), water (100 mL) and brine (100 mL). The organic layer was dried over sodium sulfate, filtered, and the filtrate concentrated under reduced pressure to provide 5.4 g (67.6%) of (2S,4R)-tert-butyl 2-((2S,3S)-1-(cyclopropylamino)-2-hydroxy-1-oxohexan-3-ylcarbamoyl)-4-(7-methoxy-2-(1H-pyrazol-1-yl)quinolin-4-yloxy)pyrrolidine-1-carboxylate as an off-white solid (HPLC purity: 98.59% by area, HPLC retention time: 14.74 minutes).

reactant | (2S,4R)-1-(tert-butoxycarbonyl)-4-(7-methoxy-2-(1H-pyrazol-1-yl)quinolin-4-yloxy)pyrrolidine-2-carboxylic acid | 11.0 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OC1=CC(=NC2=CC(=CC=C12)OC)N1N=CC=C1)C(=O)O | C23H26N4O6
reactant | 2-(1H-7-Azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | HATU | 42.6 mmol, 4.97 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 41.11 mmol, 7.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxyhexanamide | 11.0 mmol, 2.45 g | N[C@H]([C@@H](C(=O)NC1CC1)O)CCC | C9H18N2O2
solvent | methylene chloride | 135 mL | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 45 mL | CN(C=O)C | C3H7NO
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | (2S,4R)-tert-butyl 2-((2S,3S)-1-(cyclopropylamino)-2-hydroxy-1-oxohexan-3-ylcarbamoyl)-4-(7-methoxy-2-(1H-pyrazol-1-yl)quinolin-4-yloxy)pyrrolidine-1-carboxylate | 5.4 g, 67.6% | C1(CC1)NC([C@H]([C@H](CCC)NC(=O)[C@H]1N(C[C@@H](C1)OC1=CC(=NC2=CC(=CC=C12)OC)N1N=CC=C1)C(=O)OC(C)(C)C)O)=O | C32H42N6O7
